Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Advil
 
Attending: ___.
 
Chief Complaint:
Syncope, fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ woman with a history of HTN 
presenting after a recent fall with two days of dizziness and 
nausea. She was in her usual state of health until last ___ 
(___) when she developed a mild, nonproductive cough and 
started feeling generally unwell. She did not have SOB, CP, 
fevers, chills, or night sweats and does not recall recent sick 
contacts or travel history. On ___, she got up and 
started walking to the bathroom when she suddenly fell and hit 
her head on the ground. She does not recall tripping or feeling 
any particular symptoms ahead of this fall. Her partner was able 
to quickly get her up and onto the bed. She does not fully 
remember this episode and feels she may have lost consciousness. 
Since this fall, she reports significant dizziness with any 
movement including standing, walking, rolling in bed, and even 
moving her head and eyes. Specifically, she describes the 
dizziness as "the room is spinning." It quickly resolves if she 
stays still and, as such, she has scarcely left her bed for the 
past two days. She has also had associated nausea and occasional 
vomiting of clear liquids. For the past ___ days, she has not 
eaten anything and has only drank water. She denies headache, 
vision or hearing changes, and photophobia. She does report that 
she has had dizziness like this in the past following previous 
flu-like illnesses. She further states that she is prone to 
motion sickness and nausea Of note, she has not taken her home 
HCTZ since ___.
 
In the ED, initial vital signs were: T 98.9, P 75, BP 170/100, 
RR 20, O2 96% RA 
- Exam notable for: ___ Hallpike for symptoms but not nystagmus
- Labs were notable for CBC nml, Na 18, UA negative
- Studies performed include:
CT Head w/o contrast: No intracranial hemorrhage or other acute 
intracranial abnormality
CXR: No acute cardiopulmonary process.
- Vitals on transfer:  T 98.2, HR 68, BP 125/69, RR 16, O2 94% 
RA

Upon arrival to the floor, the patient was stable and able to 
report and confirm the history as outlined above. She continues 
to have moderate dizziness, none at rest, and states it is 
improved since yesterday.
 
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, shortness of breath, chest 
pain, abdominal pain, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
 
Past Medical History:
Hypertension
Mild Mitral Regurgitation
Thyroid Nodules
 
Social History:
___
Family History:
Mother died of MI at age ___. Father died of pneumonia at age ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals- T 99.1, BP 155/84, HR 64, RR 18, O2 95% RA
GENERAL: Well-appearing woman in no acute distress or 
discomfort, lying still in bed, pleasantly interacting 
HEENT: Small healing laceration with overlying dried blood on 
right occiput. Pupils equal, round, and reactive bilaterally. 
Extraocular movements intact, no nystagmus. Normal fundoscopic 
exam. Normal tympanic membranes bilaterally. Moist mucous 
membranes. Oropharynx is clear.  
NECK: No cervical lymphadenopathy.  
CARDIAC: RRR, no murmurs/rubs/gallops. No JVD.  
LUNGS: CTAB, no wheezes/crackles/rhonchi.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 1-2cm ecchymosis 
on R elbow. 2+ ___ bilaterally.  
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
NEUROLOGIC: Alert and oriented x3. CN ___ intact. Normal Weber 
test.
Negative head impulse test and test of skew. No eccentric 
nystagmus. 
Slightly abnormal left-sided dysdiadochokinesia.
Slow and hesitant on left-sided finger-to-nose and heel-to-shin 
test.
Significant dizziness on Romberg test. 
___ strength througout. Normal sensation. 

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 98.1 136/83 71 18 96% RA 
General: Well-appearing woman in no acute distress, laying 
comfortably in bed pleasantly interacting. 
HEENT: Small healing laceration with overlying dried blood on 
right occiput. Pupils reactive bilaterally, EOMI, no nystagmus.
Neck: No lymphadenopathy
Lungs: CTAB, no wheezes/crackles/rhonchi
CV: RRR, normal S1 and S2, no murmurs/rubs/gallops
Abdomen: Soft, nontender, nondistended
Ext: Warm and well-perfused, no cyanosis or edema. Palpable 
peripheral pules bilaterally.
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:30PM BLOOD WBC-4.2 RBC-4.82 Hgb-14.6 Hct-41.1 
MCV-85# MCH-30.3 MCHC-35.5 RDW-12.0 RDWSD-37.1 Plt ___
___ 09:30PM BLOOD Neuts-77.6* Lymphs-14.1* Monos-7.9 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-3.24 AbsLymp-0.59* 
AbsMono-0.33 AbsEos-0.00* AbsBaso-0.01
___ 09:30PM BLOOD ___ PTT-28.3 ___
___ 09:30PM BLOOD Glucose-134* UreaN-9 Creat-0.7 Na-124* 
K-5.9* Cl-86* HCO3-23 AnGap-21*
___ 09:30PM BLOOD cTropnT-<0.01
___ 03:13PM BLOOD Calcium-9.9 Phos-3.0 Mg-2.3
___ 10:45PM BLOOD Na-128* K-3.3

IMAGING
=======
CT HEAD ___:
FINDINGS:  
  
There is no acute intra-axial or extra-axial hemorrhage, edema, 
mass effect, or evidence of acute major vascular territorial 
infarction.  Ventricles and sulci are age appropriate in size. 
  
1.0 cm oval nodule in the right parietal scalp has soft tissue 
density, 
consistent with a nonspecific skin lesion (601:81).  No 
suspicious bone lesion is seen.  No evidence for a fracture. 
  
There is small amount of fluid versus dependent mucosal 
thickening in the 
frontal sinuses, extending into the frontoethmoidal recesses.  
There is mild mucosal thickening in the ethmoid air cells.  
There is trace fluid in the partially visualized left maxillary 
sinus.  Partially visualized right 
maxillary sinus appears clear.  There is trace fluid in the 
pterygoid recess of the left sphenoid sinus, and mild mucosal 
thickening in bilateral sphenoid sinuses.  Mastoid air cells and 
middle ear cavities are well aerated. 
  
IMPRESSION: 
1. No intracranial hemorrhage or evidence for other acute 
intracranial 
abnormalities.  No evidence for a fracture. 
2. 1 cm nonspecific oval skin lesion in the right parietal 
scalp. 
3. Small amount of fluid in the bilateral frontal, left 
sphenoid, and 
partially visualized left maxillary sinuses.  Please correlate 
clinically 
whether the patient may have symptoms of acute sinusitis. 

MR HEAD ___:
FINDINGS:  
There is no acute infarct identified.  There is no mass effect 
midline shift or hydrocephalus.  A few scattered nonspecific 
foci of FLAIR hyperintensity could indicate early changes of 
small vessel disease.  Suprasellar and craniocervical regions 
are unremarkable.  Vascular flow voids are maintained. 
  
IMPRESSION:  
No acute infarcts are identified. 

DISCHARGE LABS
==============
___ 07:25AM BLOOD WBC-4.9 RBC-4.78 Hgb-14.7 Hct-42.0 MCV-88 
MCH-30.8 MCHC-35.0 RDW-12.0 RDWSD-38.9 Plt ___
___ 07:25AM BLOOD Glucose-87 UreaN-12 Creat-0.8 Na-137 
K-3.5 Cl-98 HCO3-28 AnGap-15
___ 07:25AM BLOOD Calcium-9.2 Phos-3.2 Mg-2.3
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of HTN who 
presented after a recent fall with two days of vertigo and 
nausea. She had moderate hyponatremia on admission which 
resolved and normalized with PO intake. She was found to have 
benign paroxysmal positional vertigo after a fall which was 
likely due to orthostatic hypotension in the setting of viral 
URI. She also had a likely component of mild post-concussive 
syndrome worsening her vertigo. She was ruled out for stroke 
with MRI. She is improving on meclizine and with Epley maneuver. 
She was seen by physical therapy while inpatient. As she was 
medically stable without further inpatient needs she was 
discharged with plans to follow up with outpatient physical 
therapy for ___ rehabilitation.

#Benign paroxysmal positional vertigo: Seen by vestibular 
specialist from physical therapy and had positive left-sided 
___ on exam. Patient's symptoms are gradually improving 
s/p Epley maneuvers and has been noticing improvement of nausea 
with meclizine. Initially there was concern for central process 
given mild abnormalities on cerebellar exam and negative head 
impulse test but MRI was without evidence of stroke. Likely she 
had dislodged otoliths after her fall which provoked the BPPV.

#Syncope: Etiology was most likely orthosasis i/s/o likely viral 
illness with poor po intake. Patient now tolerating po without 
trouble and feels that dizziness is improving. Very low 
suspicion for cardiogenic etiology and no arrhythmias on 
telemetry while admitted. Was technically orthostatic on 
admission as systolic blood pressure dropped by > 20mm Hg from 
lying to sitting up. Now no longer orthostatic.

#Hyponatremia: Na 124 on presentation. Likely secondary to 
decreased po intake and only taking in free water without solute 
prior to admission. Resolved with PO intake.

#Hypertension: Initially held HCTZ due to hyponatremia but 
restarted prior to discharge without issue.

TRANSITONAL ISSUES
==================
[ ] Please ensure patient continues ___ rehabilitation 
and monitor for resolution of vertigo
[ ] would repeat chemistries at PCP follow up given low sodium 
noted on admission

#Code: FC (presumed)
#Contact: ___ (Daughter, ___
          ___ (Son, ___   
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
2.  Meclizine 12.5 mg PO TID 
RX *meclizine 12.5 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  
6.Outpatient Physical Therapy
___ and Physical Therapy
ICD-10 Code: ___ Benign paroxysmal vertigo, unspecified ear 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Benign paroxysmal positional vertigo
Hyponatremia
Fall

SECONDARY DIAGNOSIS
===================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you fell and were feeling 
extremely dizzy. You had an MRI to make sure that you did not 
have a small stroke causing your symptoms. 

You were found to have a condition called benign paroxysmal 
positional vertigo. The main treatment for this is ___ 
rehabilitation (physical therapy) and the epley maneuver. You 
were also prescribed meclizine, a medication which can help 
suppress the nausea and dizziness that the vertigo causes. 

You should continue to see physical therapy for exercises to 
help with your vertigo.

Please continue to take your medications as prescribed.

Please follow up with your regular doctor.

It was a pleasure taking care of you, we wish you the best,
Your ___ Care Team
 
Followup Instructions:
___